* Xyce Common Source Circuit

.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" ff

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_05v0_nvt W = 1.0 L = 25.0
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 5.0


*****************
** Analysic
*****************
.DC v1 0 5.0 0.1
.print DC FILE=./xyce_results/sky130_fd_pr__nfet_05v0_nvt_dc_W_1.0_L_25.0_ff_xyce.csv FORMAT=CSV {-i(vdd)}

.end
